US05817599
Synthesis of N-octadecylsuccinimide
30.6 Grams of bromooctadecane, 10.0 g of succinimide, 13.9 g of potassium carbonate, 0.5 g of potassium iodide and 60 ml of N,N-dimethylformamide (DMF) were charged in a flask equipped with a stirrer and a condenser and stirred with heating on an oil bath of 100° C. for 2 hours. The reaction mixture was cooled to room temperature and introduced into a large amount of pure water. The precipitated crystal was filtered off under reduced pressure and washed with methanol. The crystal was recrystallized from 2-propanol to obtain 28.5 g of the desired product. m.p. 75.8° C.

reactant | bromooctadecane | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | succinimide | 10.0 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | potassium carbonate | 13.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.5 g | [I-].[K+]
solvent | water | O | H2O
product | N-octadecylsuccinimide | 28.5 g | C(CCCCCCCCCCCCCCCCC)N1C(CCC1=O)=O | C22H41NO2
